US06030994
A solution of 1.05 g (6.0 mmol) of 1-methyl-1H-indole-6-carboxylic acid in 15 mL of methylene chloride was added to a stirring solution of 1.905 g (10 mmole) of 1-ethyl-3-(3dimethyl-aminopropyl)carbodiimide hydrochloride, 1.20 g (10 mmole) of 4-dirmethylaminopyridine in 20 mL of methylene chloride at room temperature. Ethanol was added and the reaction stirred for 15 h. The reaction mixture was extracted with ethyl acetate, the organic phase was washed with brine and dried on anhydrous magnesium sulfate. Chrorriatographic purification of this material gave 1.08 g (89%) of 1-methyl-1H-indole-6-carboxylic acid ethyl ester as a pale yellow oil.

reactant | 1-methyl-1H-indole-6-carboxylic acid | 6.0 mmol, 1.05 g | CN1C=CC2=CC=C(C=C12)C(=O)O | C10H9NO2
reactant | Ethanol | C(C)O | C2H6O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-1H-indole-6-carboxylic acid ethyl ester | 1.08 g, 89% | C(C)OC(=O)C1=CC=C2C=CN(C2=C1)C | C12H13NO2
